US04994461
2. 3-Ethyl 5-[3-(4,4-diphenyl-1-piperidinyl)-propyl] (+)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate hydrochloride
2 g of (+)-5-ethoxycarbonyl-1-ethoxymethyl-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3-carboxylic acid are dissolved in 25 ml of acetone, and 1.5 g of finely powdered potassium carbonate, 7.5 ml of 1,3-dibromopropane and a spatula tip of [18]crown-6 are added. The mixture is stirred vigorously for 20 h at room temperature, after which the solution is filtered off from the solid, the filtrate is evaporated in vacuo and the excess 1,3-dibromopropane is distilled off under high vacuum. 15 ml of concentrated formic acid are added to the residue while cooling with ice; stirring is then carried out at room temperature until a clear solution has formed (about 15-20 minutes). The formic acid is distilled off in vacuo, the residue is dissolved in 30 ml of dichloromethane and the solution is washed with sodium bicarbonate solution and water, dried over sodium sulphate and evaporated again. The crystalline residue is triturated with diisopropyl ether, filtered off under suction, washed with diisopropyl ether and dried. 2.2 g are obtained and are heated at the boil, without further purification, with 1.32 g of 4,4-diphenylpiperidine hydrochloride and 2 g of potassium carbonate in a mixture of 20 ml of toluene and 4 ml of water for 30 h. After cooling, the phases are separated. The organic phase is washed twice with water and evaporated. The residue is chromatographed over a silica gel column using 95:5 chloroform/ethanol as the mobile phase. The chromatographically pure fractions are collected and evaporated. The residue is dissolved in dichloromethane, 2 ml of a saturated solution of hydrogen chloride in ether are added and the mixture is immediately evaporated in vacuo. Two portions of 20 ml of dichloromethane are distilled off, after which the residue is triturated with ether, filtered off under suction and dried. 2.65 g of the title compound which decomposes from 142° C. and has [α]22D =+18.9° (c=1, methanol) are obtained.

reactant | (+)-5-ethoxycarbonyl-1-ethoxymethyl-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3-carboxylic acid | 2 g | C(C)OC(=O)C=1C(C(=C(N(C1C)COCC)C)C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C20H24N2O7
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 7.5 ml | BrCCCBr | C3H6Br2
reactant | 4,4-diphenylpiperidine hydrochloride | 1.32 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 4 ml | O | H2O
product | 3-Ethyl 5-[3-(4,4-diphenyl-1-piperidinyl)-propyl] (+)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate hydrochloride | Cl.CC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C37H41N3O6.ClH/c1-4-45-35(41)32-26(2)38-27(3)33(34(32)28-13-11-18-31(25-28)40(43)44)36(42)46-24-12-21-39-22-19-37(20-23-39,29-14-7-5-8-15-29)30-16-9-6-10-17-30;/h5-11,13-18,25,34,38H,4,12,19-24H2,1-3H3;1H
